US08802728B2
Add H2O (9 mg, 0.5 mmol) and TMSCl (39 mg, 0.357 mmol) to a solution of 2,2-dimethyl-propionic acid 3-(2-dimethylaminomethyl-bicyclo[3.2.1]oct-3-yl)-phenyl ester (102 mg, 0.297 mmol) in 2-butanone (50 mL). Then stir the reaction mixture at ambient temperature for 4 hours. Evaporate the mixture under vacuum to give 2,2-dimethyl-propionic acid 3-(2-dimethylaminomethyl-bicyclo[3.2.1]oct-3-yl)-phenyl ester hydrochloride as white solid (112 mg, Yield: 100%). 1H NMR (400 MHz, Methanol-d4) δ 7.38-7.42 (t, J=15.6, 1H), 7.20-7.22 (d, J=7.6, 1H), 7.05 (s, 1H), 6.94-6.96 (m, 1H), 3.08-3.14 (m, 1H), 2.79 (s, 3H), 2.66 (s, 3H), 2.53-2.57 (m, 2H), 2.36 (s, 2H), 2.23 (m, 1H), 1.61-1.85 (m, 8H), 1.39 (s, 9H).

reactant | H2O | 0.5 mmol, 9 mg | O | H2O
reactant | TMSCl | 0.357 mmol, 39 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2,2-dimethyl-propionic acid 3-(2-dimethylaminomethyl-bicyclo[3.2.1]oct-3-yl)-phenyl ester | 0.297 mmol, 102 mg | CN(C)CC1C2CCC(CC1C=1C=C(C=CC1)OC(C(C)(C)C)=O)C2 | C22H33NO2
solvent | 2-butanone | 50 mL | CC(CC)=O | C4H8O
product | 2,2-dimethyl-propionic acid 3-(2-dimethylaminomethyl-bicyclo[3.2.1]oct-3-yl)-phenyl ester hydrochloride | 112 mg, Yield: 100% | Cl.CN(C)CC1C2CCC(CC1C=1C=C(C=CC1)OC(C(C)(C)C)=O)C2 | InChI=1S/C22H33NO2.ClH/c1-22(2,3)21(24)25-18-8-6-7-16(13-18)19-12-15-9-10-17(11-15)20(19)14-23(4)5;/h6-8,13,15,17,19-20H,9-12,14H2,1-5H3;1H
